US06706663B2
Preparation of 3-[3-[3-(Hydroxymethyl)-2-thienyl]-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil
To a mixture of 3-[3-[3-(bromomethyl)-2-thienyl]-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil(0.840 g, 1.67 mmol), dimethylsulfoxide and sodium nitrite is added glacial acetic acid. The resultant mixture is stirred overnight at 50° C., cooled and acidified with 10% aqueous hydrochloric acid. The mixture is diluted with water and extracted twice with ethyl acetate. The combined organic layers are washed with saturated sodium carbonate, water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue is chromatographed on silica gel with diethyl ether-methylene chloride to afford the title compound as an off-white solid (0.290 g, 38.3%, mp 168-169° C.) which is identified by IR and NMR spectral analysis.

reactant | 3-[3-[3-(bromomethyl)-2-thienyl]-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil | 1.67 mmol, 0.840 g | BrCC1=C(SC=C1)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C18H11BrF3N3O2S2
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[3-[3-(Hydroxymethyl)-2-thienyl]-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil | 0.290 g, 38.3% | OCC1=C(SC=C1)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C18H12F3N3O3S2
